US06897331B2
The procedure for the Friedel-Crafts acylation of thiophene with propionyl chloride in the presence of tin tetrachloride is as follows. Tin tetrachloride (630 mg, 2.4 mmol) was added slowly to perfluorohexanes (FC-72, 3 mL) in a test tube (14 mm×105 mm) and then a mixed benzene solution (3 mL) of thiophene (168 mg, 2.0 mmol) and propionyl chloride (185 mg, 2.0 mmol) was slowly poured into the test tube. The tin tetrachloride layer in the bottom was stirred gently so as not to mix the three phases. which disappeared after 3 h. The benzene layer was decanted, washed with 10% HCl and H2O, dried over MgSO4, and concentrated. The residue was purified by short column chromatography (10 mm×40 mm) on silica gel with benzene to give 2-propionylthiophene in 71 % yield (200 mg).

reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | tin tetrachloride | [Sn](Cl)(Cl)(Cl)Cl
reactant | Tin tetrachloride | 2.4 mmol, 630 mg | [Sn](Cl)(Cl)(Cl)Cl
reactant | thiophene | 2.0 mmol, 168 mg | S1C=CC=C1 | C4H4S
reactant | propionyl chloride | 2.0 mmol, 185 mg | C(CC)(=O)Cl | C3H5ClO
solvent | benzene | 3 mL | C1=CC=CC=C1 | C6H6
product | 2-propionylthiophene | 71 % yield | C(CC)(=O)C=1SC=CC1 | C7H8OS
